US07915250B2
To a solution of tert-butyl 2-(3-hydroxyazetidin-3-yl)cyclohexylcarbamate (181 mg, 0.669 mmol) and 3,4-difluoro-2-(2-fluoro-4-iodophenylamino)benzoyl fluoride (265 mg, 0.669 mmol), prepared using procedures similar to those described in Reference 1, in tetrahydrofuran (2.2 mL) was added N,N-diisopropylethylamine (110 μL) at room temperature. After an hour, the reaction mixture was heated to 50° C. and stirred for 45 minutes, at which time it was cooled to room temperature and evaporated. The residue was partitioned between ethyl acetate and 10% citric acid. The organic layer was washed with aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford tert-butyl-2-(1-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)benzoyl)-3-hydroxyazetidin-3-yl)cyclohexylcarbamate. This crude material was taken into the next step without further purification.

reactant | tert-butyl 2-(3-hydroxyazetidin-3-yl)cyclohexylcarbamate | 0.669 mmol, 181 mg | OC1(CNC1)C1C(CCCC1)NC(OC(C)(C)C)=O | C14H26N2O3
reactant | 3,4-difluoro-2-(2-fluoro-4-iodophenylamino)benzoyl fluoride | 0.669 mmol, 265 mg | FC=1C(=C(C(=O)F)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H6F4INO
reactant | N,N-diisopropylethylamine | 110 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
product | tert-butyl-2-(1-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)benzoyl)-3-hydroxyazetidin-3-yl)cyclohexylcarbamate | C(C)(C)(C)OC(NC1C(CCCC1)C1(CN(C1)C(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)=O)O)=O | C27H31F3IN3O4
